US09328192B2
To a solution of 4-Nitro-benzoic acid 11-carboxy-1-hexyl-undecyl ester (500 g) in dry Acetone, triethylamine (232 mL) at 10-15° C. was added Bromoacetic acid 4-nitro-phenyl ester (347 g). The solution was stirred at room temperature for 8 hours. 75% of the solvent was distilled off and cooled to room temperature. The resulting solid was poured onto cold water and pH was adjusted to 4-5 with dilute HCl. The resulting solid was filtered off and washed with chilled water (100 mL). The slurry was prepared with 1 lit Di Isopropyl Ether and filtered off. The resulting solid was then dried in vacuum oven at 60-80° C. to yield pure (R)-18-(2-(4-nitrophenoxy)-2-oxoethoxy)-18-oxooctadecan-7-yl 4-nitrobenzoate product as off white powder with a melting point of 130-133° C. The resulting compound was characterized by 1H NMR (CDCl3) δ 0.86 (t, 3H, CH3), 1.2-1.5 (m, 28H, 14×CH2), 1.68 (m, 2H, CH2), 2.42 (t, 2H, COCH2), 3.52 (m, 1H, CH), 5.2 (s, 2H, CH2) 7.42 (m, 2H, Ar) 8.4-8.52 (m, 6H, Ar).

reactant | 4-Nitro-benzoic acid 11-carboxy-1-hexyl-undecyl ester | 500 g | C(=O)(O)CCCCCCCCCCC(CCCCCC)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C25H39NO6
reactant | Bromoacetic acid 4-nitro-phenyl ester | 347 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(CBr)=O | C8H6BrNO4
reactant | Di Isopropyl Ether | C(C)(C)OC(C)C | C6H14O
solvent | Acetone | CC(=O)C | C3H6O
solvent | triethylamine | 232 mL | C(C)N(CC)CC | C6H15N
product | (R)-18-(2-(4-nitrophenoxy)-2-oxoethoxy)-18-oxooctadecan-7-yl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H](CCCCCC)CCCCCCCCCCC(=O)OCC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C33H44N2O10
